US06784192B2
5-Bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal
2.58 g of 5-bromo-2-methoxy-3-pyridinecarboxaldehyde was dissolved in 30 ml of dichloromethane, a mixture of 9 ml of trimethyl orthoformate and montmorillonite K-10 (3 g) was added thereto, and the mixture was stirred at room temperature for 2 hours. After filtering the reaction solution, the filtrate was evaporated. To the residue was added ethyl acetate, followed by filtering through alumina. The filtrate was evaporated, to give 3.09 g of the title compound as a yellow oil.

reactant | 5-bromo-2-methoxy-3-pyridinecarboxaldehyde | 2.58 g | BrC=1C=C(C(=NC1)OC)C=O | C7H6BrNO2
reactant | trimethyl orthoformate | 9 ml | C(OC)(OC)OC | C4H10O3
reactant | montmorillonite K-10 | 3 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-Bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal | 3.09 g | COC(C=1C(=NC=C(C1)Br)OC)OC | C9H12BrNO3
